Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
URINARY FREQUENCY/BPH, bladder outlet obstruction 
 
Major Surgical or Invasive Procedure:
Transurethral resection of prostate.

 
History of Present Illness:
___ w/BOO & BPH now 
 
Past Medical History:
DERMATOLOGIC                                                    
LATERAL ___                                           
SARCOIDOSIS                                                     
BENIGN PROSTATIC HYPERTROPHY                                    
SPLENOMEGALY                                                    
COLONIC ADENOMA                                                 
THROMBOCYTOPENIA                                                
HEALTH MAINTENANCE                                              
H/O ESOPHAGITIS                                                 
H/O HYPERLIPIDEMIA                                              
H/O KIDNEY STONES  
 
Social History:
Country of Origin:  US (___)                                 
Marital status:     Married                                     
Children:           Yes: Has two stepchildren (grown) and 2     
                    stepgrandchildren                           
Lives with:         ___                            
Lives in:           House                                       
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      N/A                                         
Contraception       Menopausal                                  
comments:                                                       
Tobacco use:        Never smoker                                
Alcohol use:        Past and Present                            
drinks per week:    ___                                         
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities: 5 days/week gym once a day      
                    (weights, cardio), squash                   
Diet:               Healthy, big dinners                        
Seat belt/vehicle   Sometimes                                   
restraint use:                                                  
Bike helmet use:    Sometimes                                   

Comments:           Doing better on wearing seatbelt almost all 
                    the time. Has gone online to look for health
                    info.  Not yet on PatientSite.  No CAM use. 
 
Family History:
Mother   Living   ___                                            

Father   ___ ___  LUNG CANCER                               
                      SMOKER                                    

Comments: Cancers: F (lung) CAD: none known Strokes: none known 
          Diabetes: brother (type 2)                            

 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
Foley removed. Circumcised. Voiding independently. PVRs checked 
prior to discharge.  
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
NONE 
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service after 
bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. He patient received ___ antibiotic 
prophylaxis. The patient's postoperative course was 
uncomplicated. He received intravenous antibiotics and 
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and Foley catheter was removed with an active 
voiding trial.  Post void residuals were checked. His urine was 
clear and and without clots. He remained a-febrile throughout 
his hospital stay.  At discharge, the patient had pain well 
controlled with oral pain medications, was tolerating regular 
diet, ambulating without assistance, and voiding without 
difficulty.  He was given pyridium and oral pain medications on 
discharge along with explicit instructions to follow up in 
clinic.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. potassium citrate 5 mEq (540 mg) oral DAILY 
3. Naproxen 220 mg PO Q12H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
3.  Phenazopyridine 100 mg PO TID Duration: 3 Days 
RX *phenazopyridine [Pyridium] 100 mg ONE tablet(s) by mouth 
Q8hrs Disp #*9 Tablet Refills:*0 
4.  Senna 17.2 mg PO QHS  
5.  Finasteride 5 mg PO DAILY  
6.  Naproxen 220 mg PO Q12H:PRN Pain - Mild  
7.  potassium citrate 5 mEq (540 mg) oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
POSTOPERATIVE DIAGNOSIS:  Bladder neck scarring, bladder outlet 
obstruction.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  
 
Followup Instructions:
___